US05059728
As another example, the 3-trifluoromethyl-2,2,4,4-tetrafluoropentane may be prepared by fluorinating commercially available 2,4-pentanedione to form 2,2,4,4-tetrafluoropentane which may then be dehydrohalogenated to form 2,4,4-trifluoro-2-pentene. The 2,4,4-trifluoro-2-pentene may then be reacted with CF3 to form 3-trifluoromethyl-2,2,4,4-tetrafluoropentane.

reactant | 3-trifluoromethyl-2,2,4,4-tetrafluoropentane | FC(C(C(C)(F)F)C(C)(F)F)(F)F | C6H7F7
reactant | 2,4-pentanedione | CC(CC(C)=O)=O | C5H8O2
product | 2,2,4,4-tetrafluoropentane | FC(C)(CC(C)(F)F)F | C5H8F4
